### PR TITLE
Briefly rewritten proofs of Finite_sets_facts.v

### PR DESCRIPTION
**Pull request by soukouki**
In the proof of card_soustr_1 in theories/Sets/Finite_sets_facts.v, the duplicated proof was omitted and made concise.

add_soustr_xy required a proof of x <> x0, which was proved in lines 142 to 145 of the original code.
It was also proved by elim (classic (x = x0)) to obtain x <> x0, at lines 128 to 130 of the original code.
I have omitted this duplication and simplified the proof by proving x <> x0 first.

  
  - [x] Updated **documented syntax** by running `make doc_gram_rsts`.

<!-- Pointers to relevant developer documentation:

Contributing guide: https://github.com/coq/coq/blob/master/CONTRIBUTING.md

Test-suite: https://github.com/coq/coq/blob/master/test-suite/README.md

Changelog: https://github.com/coq/coq/blob/master/doc/changelog/README.md

Building the doc: https://github.com/coq/coq/blob/master/doc/README.md
Sphinx: https://github.com/coq/coq/blob/master/doc/sphinx/README.rst
doc_gram: https://github.com/coq/coq/blob/master/doc/tools/docgram/README.md

Overlays: https://github.com/coq/coq/blob/master/dev/ci/user-overlays/README.md

### CODE REVIEW

**Comment by olaure01** [comment]
There is another `elim (classic (x = x0))` below in the proof, so one more factorization step looks possible.
It is also possible to use `Add_inv` to get `In U X x0` once `x <> x0`.
Here is what it could give:
```
  Proof.
    intros X n H. induction H as [|X n H H0 x H1]; intros x' H2.
    - destruct H2.
    - rewrite Nat.pred_succ.
      destruct (classic (x = x')) as [<- | H4].
      + rewrite <- (Sub_Add_new _ _ _ H1). assumption.
      + assert (In U X x') as H3
          by now apply Add_inv in H2 as [ | ->]; [ | contradiction H4 ].
        rewrite (add_soustr_xy _ _ x x' H4).
        rewrite <- Nat.succ_pred_pos.
        * apply card_add; [ apply (H0 _ H3) | ].
          intros [? _]%Subtract_inv. contradiction H1.
        * apply inh_card_gt_O with (X := X); [ | assumption ].
          apply Inhabited_intro with (x := x'). assumption.
  Qed.
```

**Review by olaure01 — COMMENTED** [review]
It happens to be possible to avoid classical reasoning in all three statements.
Here is a proof for `cardinal_is_functional`:
```coq
  Proof.
    intros X c1 H1.
    induction H1 as [|X ? HX IH x Hx]; intros Y c2 HY <-; inversion HY as [HXY Hc | ? ? ? ? ? HXY].
    - reflexivity.
    - symmetry in HXY. apply not_Empty_Add in HXY as [].
    - apply not_Empty_Add in HXY as [].
    - subst c2.
      f_equal. apply (IH X); [ | reflexivity ].
      apply card_soustr_1 with (x := x) in HY; [ | apply Add_intro2 ].
      rewrite <- (Sub_Add_new _ _ _ Hx) in HY. assumption.
  Qed.
```

File: theories/Sets/Finite_sets_facts.v [hunk 1]
```diff
@@ -232,34 +203,28 @@ Section Finite_sets_facts.
 	cardinal U Y c2 -> Strict_Included U X Y -> c2 > c1.
```
[the remark this answers is not in the document]
Comment (soukouki) [reply theories/Sets/Finite_sets_facts.v:201]: The change to c1 < c2 has a greater impact than a simple modification of the code.
I would prefer to separate pull requests and reflect the modifications as the version is upgraded.

File: theories/Sets/Finite_sets_facts.v [hunk 2]
```diff
@@ -278,62 +214,48 @@ Section Finite_sets_facts.
   Lemma G_aux :
     forall P:Ensemble U -> Prop,
       (forall X:Ensemble U,
-	Finite U X ->
-	(forall Y:Ensemble U, Strict_Included U Y X -> P Y) -> P X) ->
+      	Finite U X ->
+      	(forall Y:Ensemble U, Strict_Included U Y X -> P Y) -> P X) ->
```
Comment (olaure01) [inline theories/Sets/Finite_sets_facts.v:218]:
```suggestion
        Finite U X ->
        (forall Y:Ensemble U, Strict_Included U Y X -> P Y) -> P X) ->
```

File: theories/Sets/Finite_sets_facts.v [hunk 3]
```diff
@@ -278,62 +214,48 @@ Section Finite_sets_facts.
...
+    now apply less_than_empty in H2.
   Qed.
 
   Lemma Generalized_induction_on_finite_sets :
     forall P:Ensemble U -> Prop,
       (forall X:Ensemble U,
-	Finite U X ->
-	(forall Y:Ensemble U, Strict_Included U Y X -> P Y) -> P X) ->
+      	Finite U X ->
+      	(forall Y:Ensemble U, Strict_Included U Y X -> P Y) -> P X) ->
```
Comment (olaure01) [inline theories/Sets/Finite_sets_facts.v:232]:
```suggestion
        Finite U X ->
        (forall Y:Ensemble U, Strict_Included U Y X -> P Y) -> P X) ->
```

File: theories/Sets/Finite_sets_facts.v [hunk 4]
```diff
@@ -278,62 +214,48 @@ Section Finite_sets_facts.
...
+      + apply H4; [ now apply (Finite_downward_closed _ H5) |].
+        intros Y1 H12.
+        apply H6 with (Y := Y1); [| destruct H12 |]; auto with sets.
+        now apply Strict_inclusion_is_transitive_with_inclusion with (y := Y0).
+      + destruct H11 as [A' H12].
+        destruct H12 as [-> H13].
+        apply H6 with (Y := A'); auto with sets.
+        destruct (Included_Strict_Included _ A' X H13) as [| <- ]; auto with sets.
+        destruct H9 as [H14 H15].
+        elim H15; auto with sets.
```
Comment (olaure01) [inline theories/Sets/Finite_sets_facts.v:258]: It might be simpler to inline `G_aux`. Here is a proposal.
```suggestion
    intros P HP X HX.
    induction HX as [|X HX IH x Hx] in P, HP |- *.
    - apply HP; [ auto with sets | ].
      intros Y [->%less_than_empty []]. reflexivity.
    - enough (forall Y, Included U Y (Add U X x) -> P Y) by auto with sets.
      revert Hx. apply IH. clear IH X HX.
      intros Y HY IH' Hx Z HZYx.
      apply HP; [ apply Finite_downward_closed with (Add _ Y x); auto with sets | ].
      intros Z' HZ'Z.
      pose proof (Strict_inclusion_is_transitive_with_inclusion _ _ _ _ HZ'Z HZYx)
        as [[[[HZ'Y Hneq'] | ->]%Included_Strict_Included|[Y' [-> HY'Y]]]%Included_Add Hneq].
      + apply (IH' Z'); auto with sets.
      + apply (HP _ HY).
        intros Y' [HY'Y Hneq'].
        apply (IH' Y'); auto with sets.
      + apply (IH' Y'); auto with sets.
        now split; [ | intros ->; apply Hneq ].
```

File: theories/Sets/Finite_sets_facts.v [hunk 5]
```diff
@@ -278,62 +214,48 @@ Section Finite_sets_facts.
   Lemma G_aux :
```
Comment (olaure01) [inline theories/Sets/Finite_sets_facts.v:214]: One could inline `G_aux` in `Generalized_induction_on_finite_sets` (see below).

File: theories/Sets/Finite_sets_facts.v [hunk 6]
```diff
@@ -118,39 +118,25 @@ Section Finite_sets_facts.
...
+        * apply inh_card_gt_O with (X := X); [| assumption ].
+          exact (Inhabited_intro _ _ _ Hx').
+      + rewrite <- (Sub_Add_new _ _ _ Hx). assumption.
+  Qed.
+
+  Lemma cardinal_Empty : forall m:nat, cardinal U (Empty_set U) m -> 0 = m.
+  Proof.
+    intros m Cm; generalize (cardinal_invert U (Empty_set U) m Cm).
+    elim m; auto with sets.
+    intros; elim H0; intros; elim H1; intros; elim H2; intros.
```
Comment (olaure01) [inline theories/Sets/Finite_sets_facts.v:138]: This PR could be a good opportunity to make the file compatible with mangled names (there are a few other adjustments like this one to do):
```suggestion
    intros n H H0. elim H0. intros x H1. elim H1. intros x0 H2. elim H2. intro H3.
```

**Comment by silene** [comment]
You need the indentation fixes to be fixups rather than actual commits, otherwise the linter will keep rejecting the pull request. In other words, if you introduce a whitespace issue in an early commit, it is not sufficient to fix it in a later commit, you have to go back and fix it in the original commit (e.g., by using `git rebase -i`).

**Comment by soukouki** [comment]
Thank you.
I will try to do it tomorrow as it is already midnight here.

**Comment by soukouki** [comment]
I have separate commits for each function change at the moment, should I combine them into one commit?

File: theories/Sets/Finite_sets_facts.v [hunk 7]
```diff
@@ -118,39 +115,25 @@ Section Finite_sets_facts.
...
+          exact (Inhabited_intro _ _ _ Hx').
+      + rewrite <- (Sub_Add_new _ _ _ Hx). assumption.
+  Qed.
+
+  Lemma cardinal_Empty : forall m:nat, cardinal U (Empty_set U) m -> 0 = m.
+  Proof.
+    intros m Cm; generalize (cardinal_invert U (Empty_set U) m Cm).
+    elim m; auto with sets.
+    intros n H H0. elim H0. intros x H1. elim H1. intros x0 H2. elim H2. intro H3.
+    elim (not_Empty_Add U x x0 H3).
```
Comment (olaure01) [inline theories/Sets/Finite_sets_facts.v:136]:
```suggestion
    intros m Cm. inversion Cm as [|? ? ? ? ? H]; [ reflexivity | ].
    symmetry in H. destruct (not_Empty_Add _ _ _ H).
```

File: theories/Sets/Finite_sets_facts.v [hunk 8]
```diff
@@ -212,17 +170,13 @@ Section Finite_sets_facts.
...
-      cut (n' = S n).
-      + intro E; rewrite E; auto with sets.
-      + apply cardinal_unicity with (Add U A x); auto with sets.
+    intros A x n n' H0 H1.
+    elim (classic (In U A x)); intro H2.
+    - cut (n' = n); [ intro H3; rewrite H3; auto |].
+      rewrite (Non_disjoint_union _ _ _ H2) in H1.
+      now apply (cardinal_unicity A).
+    - cut (n' = S n); [ apply Nat.eq_le_incl |].
+      apply cardinal_unicity with (X := Add U A x); auto with sets.
```
Comment (olaure01) [inline theories/Sets/Finite_sets_facts.v:179]:
```suggestion
    - rewrite (Non_disjoint_union _ _ _ H2) in H1.
      rewrite (cardinal_unicity _ _ H0 _ H1).
      apply Nat.le_succ_diag_r.
    - apply Nat.eq_le_incl.
      apply cardinal_unicity with (X := Add U A x); auto with sets.
```

**Review by olaure01 — COMMENTED** [review]
Squashing commits would be nice (no reason to keep them separate here).
Here are just some additional suggestions.
Moreover `inh_card_gt_O`, `cardinal_unicity` and `incl_card_le` require explicit names in `intros` for name mangling. Could you take this also into account in this PR?

File: theories/Sets/Finite_sets_facts.v [hunk 9]
```diff
@@ -107,50 +104,37 @@ Section Finite_sets_facts.
...
   Proof.
-    induction 1 as [x H'].
-    intros n H'0.
-    destruct n; [ exfalso | apply Nat.lt_0_succ ].
-    rewrite (cardinalO_empty X) in H'; [ elim H' | assumption ].
+    intros X HX n HCX.
+    induction HX.
+    destruct n.
+    - now rewrite (cardinalO_empty X HCX) in H.
+    - apply Nat.lt_0_succ.
```
Comment (olaure01) [inline theories/Sets/Finite_sets_facts.v:111]: Name mangling problem.
```suggestion
    intros X [x HX] [] HCX.
    - now rewrite (cardinalO_empty X HCX) in HX.
    - apply Nat.lt_0_succ.
```

**Review by olaure01 — APPROVED** [review]

**Comment by olaure01** [comment]
Proofs are simpler and fully compatible with name mangling.
I am planning to merge after the result of a full CI run.

**Comment by soukouki** [comment]
I was informed and helped on many points. Thank you very much.

**Comment by olaure01** [comment]
@coqbot merge now
